US20010020089A1
(3aS,4S,6R,6aR)-N-Ethyl-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxamide
Oxalyl chloride (14.0 ml, 160 mmol) was added dropwise to a stirred solution of (3aR,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxylic acid (J. Am. Chem. Soc., 1958, 80, 5168) (23.30 g, 107 mmol) in anhydrous dichloromethane (120 ml) and N,N-dimethylformamide (2 drops) and the mixture was stirred at room temperature for 3 hours until gas evolution had ceased. TLC analysis showed that some starting material still remained and so further N,N-dimethylformamide (2 drops) was added and stirring was continued for 1 hour. The solvent was removed under reduced pressure and the residue was azeotroped with anhydrous dichloromethane (×2). The residue was then dissolved in anhydrous dichloromethane (200 ml) and the solution was treated dropwise with ethylamine (2 M in tetrahydrofuran, 140 ml, 280 mmol). This solution was left at room temperature for 48 hours. Diethyl ether (250 ml) was added and the mixture was stirred for 15 minutes. The mixture was filtered and the solvent was removed from the filtrate under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:ethyl acetate (100:0 by volume) gradually changing to dichloromethane:ethyl acetate (44:66by volume) to afford the title compound as a yellow solid (24.70 g).

reactant | Oxalyl chloride | 160 mmol, 14.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3aR,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxylic acid | 107 mmol, 23.30 g | CO[C@@H]1O[C@@H]([C@H]2[C@H]1OC(O2)(C)C)C(=O)O | C9H14O6
reactant | ethylamine | 280 mmol, 2 M, 140 ml | C(C)N | C2H7N
reactant | Diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | (3aS,4S,6R,6aR)-N-Ethyl-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxamide | 24.70 g | C(C)NC(=O)[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)OC | C11H19NO5
